US04481142
8-Chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one-2-oxide
A mixture of 6.4 g (22 mmol) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one and 6.4 g (34 mmole) of m-chloroperbenzoic acid in 350 ml of methylene chloride was stirred at room temperature for 2 hr. The methylene chloride solution was washed with saturated aqueous sodium bicarbonate and water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a yellow oil. The oil was crystallized from a mixture of ether and petroleum ether to give off-white prisms, mp 166°-168° C. Recrystallization from a mixture of ether and methylene chloride gave colorless prisms, mp 168°-170° C.

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one | 22 mmol, 6.4 g | ClC1=CC2=C(C(CCN=C2C2=C(C=CC=C2)F)=O)C=C1 | C16H11ClFNO
reactant | m-chloroperbenzoic acid | 34 mmole, 6.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 8-Chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one-2-oxide | ClC1=CC2=C(C(CC[N+](=C2C2=C(C=CC=C2)F)[O-])=O)C=C1 | C16H11ClFNO2
